US07700594B2
trans-4-[8-Amino-1-(1H-indol-2-yl)imidazo[1,5-a]pyrazin-3-yl]cyclohexanecarboxamide
trans-4-(8-Amino-1-iodoimidazo[1,5-a]pyrazin-3-yl)cyclohexanecarboxamide (40 mg, 0.10 mmol), 1-(tert-butoxycarbonyl)-1H-indole-2-boronic acid (33 mg, 0.12 mmol), and sodium carbonate (33 mg, 0.31 mmol) were added to DME:Water (5:1) (2 mL) and the mixture degassed with Argon for 10 min. Tetrakis(triphenylphosphine)palladium(0) (8.0 mg, 0.007 mmol) was then added and the reaction mixture microwaved at 110° C. for 1 h, The mixture was concentrated in vacuo, taken up in DMSO, and purified by mass-directed preparative HPLC to afford desired product. 1H NMR (d6-DMSO, 400 MHz): □ 11.50 (br s, 1H), 7.72 (m, 1H), 7.58 (m, 1H), 7.46 (dd, J=7.6, 0.4 Hz, 1H), 7.25 (br s, 1H), 7.13 (m, 1H), 7.08-7.00 (m, 2H), 6.70 (br s, 1H), 6.69 (br s, 1H), 3.16 (m, 1H), 2.20 (m, 1H), 2.10-1.80 (m, 4H) and 1.65 (m, 4H). MS (ES+): m/z 375.17 [MH+].

reactant | trans-4-(8-Amino-1-iodoimidazo[1,5-a]pyrazin-3-yl)cyclohexanecarboxamide | 0.10 mmol, 40 mg | NC=1C=2N(C=CN1)C(=NC2I)[C@@H]2CC[C@H](CC2)C(=O)N | C13H16IN5O
reactant | 1-(tert-butoxycarbonyl)-1H-indole-2-boronic acid | 0.12 mmol, 33 mg | C(C)(C)(C)OC(=O)N1C(=CC2=CC=CC=C12)B(O)O | C13H16BNO4
reactant | sodium carbonate | 0.31 mmol, 33 mg | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.007 mmol, 8.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME Water | 2 mL | COCCOC.O
product | trans-4-[8-Amino-1-(1H-indol-2-yl)imidazo[1,5-a]pyrazin-3-yl]cyclohexanecarboxamide | NC=1C=2N(C=CN1)C(=NC2C=2NC1=CC=CC=C1C2)[C@@H]2CC[C@H](CC2)C(=O)N | C21H22N6O
